data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(=O)N1CCOC23C=C(C(=O)C2(C1)CCC45C3(O4)CC(C6C5CCC(C6)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)[O-:10].C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)[S:20](=O)(=[O:21])C(F)(F)F.CC(C)(C)[Si](C)(C)F.CN(C)S(=[N+](C)C)N(C)C.C[Si](C)(C)F>>CC(=O)N1CCOC23C=C(C(=O)C2(C1)CCC45C3(O4)CC(C6C5CCC(C6)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)[O:10][S:20](=O)(C(F)(F)F)(N(C7=CC=CC=C7)S(=O)(=O)C(F)(F)F)[O-:21].CC(C)(C)[Si](C)(C)F.CN(C)S(=[N+](C)C)N(C)C.C[Si](C)(C)F 10=20;20,21=21
CC(CC1CCCCCC1)C=[O+][Si:20](C)(C)C.CC(=O)[O-:10]>>CC(CC1CCCCCC1)C=[O+][Si-:20](C)(C)(C)[O:10]C(=O)C 10=20,
C[C:20](=[OH+:21])C=CC(C1(C(=O)OC2C1(OCC2O)O)O)[OH:10]>>C[C:20]1(C=CC([OH+:10]1)C2(C(=O)OC3C2(OCC3O)O)O)[OH:21] 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C)C(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[C:24]1=[CH:23][CH:22]=[C:21](C=C1)C(C)C 10=20;20,21=21,22;22,23=23,24
[H:20][NH+:21]=C1CCC2CCN(C2C1C3C=CC=CC3=N)CCS(=O)C4=CC=CC=C4.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1CC(=[NH:21])C(C2C1CCN2CCS(=O)C3=CC=CC=C3)C4C=CC=CC4=N.O 10=20;20,21=21
[H:20][OH+:21]C12CCC(=CCC1(CCC2C(C)C)C)C.[O-:10]P1(=O)O[Mg]OP(=O)(O1)[O-]>>[H:20][O:10]P1(=O)O[Mg]OP(=O)(O1)[O-].CC1=CCC2(CCC(C2(CC1)[OH:21])C(C)C)C 10=20;20,21=21
C1=CC(=CC(=C1)C(F)(F)F)[NH2:10].C1=CC2=C(C(=C1)C(F)(F)F)[C:20](=[O:21])C(=O)N2.CC(=O)O>>C1=CC(=CC(=C1)C(F)(F)F)[NH2+:10][C:20]2(C3=C(C=CC=C3C(F)(F)F)NC2=O)[O-:21].CC(=O)O 10=20;20,21=21
[B-]([O:10]C)(F)(F)F.C[CH:20]=[O+:21]C>>[B-]([O+:10](C)[CH:20](C)[O:21]C)(F)(F)F 10=20;20,21=21
[CH:20]([NH2:10])(O)[Cl:21]>>[CH:20](=[NH2+:10])O.[Cl-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C(C=C2)[N+](=O)[O-])[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
C1=CC(=CC=C1C[C:20](C2=C(C=C(C=C2O)O)O)([NH3+:21])[OH:10])O.CCOCC.O.OS(=O)(=O)[O-]>>C1=CC(=CC=C1C[C:20](=[OH+:10])C2=C(C=C(C=C2O)O)O)O.[NH3:21].CCOCC.O.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][CH:21](C(=O)CC1=CC=CC=C1)[C:22](=[O:23])OC(=O)C2=CC=CC=C2.[NH2-:10]>>[H:20][NH2:10].C1=CC=C(C=C1)CC(=O)[CH:21]=[C:22]([O-:23])OC(=O)C2=CC=CC=C2 10=20;22,23=23;20,21=21,22
C[CH:20](C1=CC=CC=C1)[Br:21].[OH-:10]>>C[CH:20](C1=CC=CC=C1)[OH:10].[Br-:21] 10=20;20,21=21
CC1C(C(C(O1)CO[P:20](=[O:21])([O-])OP(=O)([O-])OP(=O)(O)[O-])O)O.C(CC(=O)[O-])C(C(=O)[O-:10])[NH3+]>>CC1C(C(C(O1)CO[P:20]([O-:21])([O-])([O:10]C(=O)C(CCC(=O)[O-])[NH3+])OP(=O)([O-])OP(=O)(O)[O-])O)O 10=20;20,21=21
C1CC(=O)N(C1=O)[O:21][C:20](C#CCO)([O-:10])OCC2C3=C(C=CC=C3)C4=C2C=CC=C4>>C1CC(=O)N(C1=O)[O-:21].C1=CC2=C(C=C1)C3=C(C2CO[C:20](=[O:10])C#CCO)C=CC=C3 10=20;20,21=21
[H:20][CH2:21][CH+:22]C1=CC=CC=C1.CC[OH:10]>>[H:20][OH+:10]CC.[CH2:21]=[CH:22]C1=CC=CC=C1 10=20;20,21=21,22
C[CH:20]([N+:21](C)(C)C)[O-:10]>>C[CH:20]=[O:10].C[N:21](C)C 10=20;20,21=21
C[S:10]C.[I:20][I:21]>>C[S+:10](C)[I:20].[I-:21] 10=20;20,21=21
CCCO[C:20](=[O:21])C.[OH-:10]>>CCCO[C:20](C)([OH:10])[O-:21] 10=20;20,21=21
C[CH:20]([NH:10]C)[Br:21]>>C[CH:20]=[NH+:10]C.[Br-:21] 10=20;20,21=21
[H:20][C:21]([C:22]1=[N+:23](C(=C(S1)CCO)C)CC2=CC=CC=C2)(C(C)C)O.CC[N:10](CC)CC.CC(=O)C=C.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(S[C:22](=[C:21](C(C)C)O)[N:23]1CC2=CC=CC=C2)CCO.CC(=O)C=C.[Cl-] 10=20;22,23=23;20,21=21,22
[H:20][CH2:21][CH:22](C(=O)C)[Br:23].CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC(=O)[CH:22]=[CH2:21].[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C1=CC=CC=C1)[C:22](=[O:23])OC.CC(C)(C)[O-:10].CCOC(=O)C=C.COC(=O)C=C>>[H:20][O:10]C(C)(C)C.CO[C:22](=[CH:21]C1=CC=CC=C1)[O-:23].CCOC(=O)C=C.COC(=O)C=C 10=20;22,23=23;20,21=21,22
COC1=CC=C(C=C1)[CH:20]([NH:10]CC=C)[OH:21].C=CCN>>COC1=CC=C(C=C1)[CH:20]=[NH+:10]CC=C.[OH-:21].C=CCN 10=20;20,21=21
C[C:20](=[O+:21]C)C.C(CO)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C[C:20](C)([OH+:10]CCO)[O:21]C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC1(OC2CCCC3C2([O:10]1)C(=C)CC3)C.C[Si:20](C)(C)OS(=O)(=O)C(F)(F)F>>CC1(OC2CCCC3C2([O+:10]1[Si-:20](C)(C)(C)OS(=O)(=O)C(F)(F)F)C(=C)CC3)C 10=20,
[H:20][OH2+:21].CC[O:10]C(C=C)(O)O>>[H:20][O+:10](CC)C(C=C)(O)O.[OH2:21] 10=20;20,21=21
CC1=C(C=CC=C1)[CH:20]([NH:10]CC(=O)OC)[OH2+:21].CCN(CC)CC.[Cl-]>>CC1=C(C=CC=C1)[CH:20]=[NH+:10]CC(=O)OC.[OH2:21].CCN(CC)CC.[Cl-] 10=20;20,21=21
[H:20][CH:21](C)[O:22][I+:23]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.C(=O)(O)[O-:10]>>[H:20][O:10]C(=O)O.C[CH:21]=[O:22].CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1 10=20;22,23=23;20,21=21,22
[B-]([O+:21]1CC[N:10]([CH:20]1C)C)(F)(F)F>>[B-]([O:21]CC[N+:10](=[CH:20]C)C)(F)(F)F 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.C[C:10]1=[CH:11][NH:12]C2=C1C=CC=C2>>[H:20][C:10]1([CH:11]=[NH+:12]C2=C1C=CC=C2)C.C(=O)(C(F)(F)F)[O-:21] 10,11=10,20;20,21=21;12=11
C1CC[C:20]2=[NH+:21]CCCC2C1.[OH2:10]>>C1CC[C:20]2(C(C1)CCC[NH:21]2)[OH2+:10] 10=20;20,21=21
CC(=O)C1CCO[C:20]1([O-:10])[O:21]C>>CC(=O)C1CCO[C:20]1=[O:10].C[O-:21] 10=20;20,21=21
